US05019575
6-[4-(2,2-bis(ethoxycarbonyl)vinyl)aminophenyl]-4,5-dihydropyridazin-3(2H)one
A solution containing 0.38 g of 6-(4-aminophenyl)-4,5-dihydropyridazin-3(2H)one and 0.45 g of diethyl ethoxymethylenemalonate in 5 ml of dry ethanol was refluxed for 1.5 h. After cooling the product was filtered and washed with ethanol. Yield 0.3 g, mp 164° C.

reactant | 6-(4-aminophenyl)-4,5-dihydropyridazin-3(2H)one | 0.38 g | NC1=CC=C(C=C1)C=1CCC(NN1)=O | C10H11N3O
reactant | diethyl ethoxymethylenemalonate | 0.45 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 6-[4-(2,2-bis(ethoxycarbonyl)vinyl)aminophenyl]-4,5-dihydropyridazin-3(2H)one | C(C)OC(=O)C(=CNC1=CC=C(C=C1)C=1CCC(NN1)=O)C(=O)OCC | C18H21N3O5
